US08049015B2
To (5-{2-[(N-tert-butoxycarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid ethyl ester (0.375 g, 0.8 mmol) in EtOAc (4 mL) was added 4N HCl in 1,4-dioxane (0.8 mL), and the reaction was stirred at 50° C. for 1 hour. Additional 4N HCl in 1,4-dioxane (0.8 mL) was added, and the reaction was stirred for 1 hour at 70° C. The mixture was concentrated to give [5-(2-ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester, dihydrochloride.

reactant | (5-{2-[(N-tert-butoxycarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-pyridin-3-yl)-acetic acid ethyl ester | 0.8 mmol, 0.375 g | C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OC(C)(C)C)=O | C24H29F3N2O4
reactant | HCl | 4N | Cl | ClH
reactant | HCl | 4N | Cl | ClH
solvent | EtOAc | 4 mL | CCOC(=O)C | C4H8O2
solvent | 1,4-dioxane | 0.8 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 0.8 mL | O1CCOCC1 | C4H8O2
product | [5-(2-ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester, dihydrochloride | Cl.Cl.C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | InChI=1S/C19H21F3N2O2.2ClH/c1-3-23-11-15-9-16(19(20,21)22)5-6-17(15)14-7-13(10-24-12-14)8-18(25)26-4-2;;/h5-7,9-10,12,23H,3-4,8,11H2,1-2H3;2*1H
